US06716843B2
(S)-N-[2-Amino-3-oxo-3-(1-pyrrolidinyl)propyl]-methane-sulphonamide Hydrochloride
Starting from (S)-3-[(benzyloxycarbonyl)-amino]-2-[(tert-butyloxycarbonyl)-amino]-propanoic acid, methanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 3.

reactant | (S)-3-[(benzyloxycarbonyl)-amino]-2-[(tert-butyloxycarbonyl)-amino]-propanoic acid | C(C1=CC=CC=C1)OC(=O)NC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C16H22N2O6
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-N-[2-Amino-3-oxo-3-(1-pyrrolidinyl)propyl]-methane-sulphonamide Hydrochloride | Cl.N[C@@H](CNS(=O)(=O)C)C(N1CCCC1)=O | InChI=1S/C8H17N3O3S.ClH/c1-15(13,14)10-6-7(9)8(12)11-4-2-3-5-11;/h7,10H,2-6,9H2,1H3;1H/t7-;/m0./s1
